US06992087B2
Preparation of methyl (3R,4S)-3-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-4-(2-fluoroethoxy)pyrrolidine-1-carboxylate
Following the procedure for the preparation of N-[(cis)-1-acetyl-4-ethoxypyrrolidin-3-yl]-5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-amine but substituting 5-(2,4-dichlorophenyl)-3,6-diethyl-N-[(3R,4S)-4-(2-fluoroethoxy)pyrrolidin-3-yl]pyrazin-2-amine and methyl chloroformate, and making non-critical variations provided the title compound as an oil: 1H NMR (400 MHz, DMSO-d6) δ) 7.71, 7.50, 7.41, 6.04, 4.61, 4.54, 4.42, 4.25, 3.78-3.70, 3.60, 3.54, 3.37, 2.65, 2.37, 1.15, 1.08; IR (diffuse reflectance) 2970, 2934, 2350 (w), 2341 (w), 2039 (w), 1940 (w), 1921 (w), 1710 (s), 1569, 1551, 1499, 1466 (s), 1452 (s), 1393 (s), 1373, cm−1; HRMS (FAB) calcd for C22H27Cl2FN4O3+H 485.1522, found 485.1541. Anal. Calcd for C22H27Cl2FN4O3: C, 54.44; H, 5.61; N, 11.54. Found: C, 54.73; H, 5.76; N, 11.46.

reactant | N-[(cis)-1-acetyl-4-ethoxypyrrolidin-3-yl]-5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-amine | C(C)(=O)N1C[C@H]([C@H](C1)OCC)NC1=NC(=C(N=C1CC)C1=C(C=C(C=C1)Cl)Cl)CC | C22H28Cl2N4O2
reactant | 5-(2,4-dichlorophenyl)-3,6-diethyl-N-[(3R,4S)-4-(2-fluoroethoxy)pyrrolidin-3-yl]pyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@@H]1CNC[C@@H]1OCCF)CC | C20H25Cl2FN4O
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
product | methyl (3R,4S)-3-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-4-(2-fluoroethoxy)pyrrolidine-1-carboxylate | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@@H]1CN(C[C@@H]1OCCF)C(=O)OC)CC | C22H27Cl2FN4O3
